Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Seizure in setting of head trauma
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ male (real name ___ coming in 
after assault to head and seizure, now unresponsive. 

 Per police patient reportedly stole a woman's purse and as he 
attempted to flee other individuals tackled him to the ground 
when he struck his head. En route, patient had 45 seconds of 
tonic clonic sz that terminated spontaneously. Patient was 
unresponsive thereafter. He would intermittently wake up and 
shout incoherently, and go back to having a GCS of 5.

 Upon arrival to ED, foaming at the mouth and intubated. 
Paralyzed with rocuronium (5:30pm), bloused w/fentanyl and 
started on propofol. 
BPs soft immediately after intubation, responsive to fluid 
bolus. BPs dropped and v. agitated from propofol. Subsequently 
d/c'd. A crack pipe was found in pocket.

 Trauma Surgery consulted and primary survey revealed no other 
clear evidence of trauma except abrasion to right forearm. 
 
In ED initial VS:  
98.6 126 116/72 18 95% RA 
Exam:  (prior to intubation)
withdrew all 4 ext to foley placement
Pupils deviated to the right with pupils 3mm and minimally 
reactive

Patient was given:
___ 16:16 IV DRIP Propofol ___ mcg/kg/min ordered) 
___ 16:16 IV DRIP Fentanyl Citrate ___ mcg/hr 
ordered) 
___ 16:19 IV DRIP Propofol  ___ Confirmed Rate 
Changed to 40 mcg/kg/min Stop 
___ 16:36 IVF  NS ( 1000 mL ordered) 
___ 16:36 IVF  NS ( 1000 mL ordered) 
___ 16:36 IV DRIP Midazolam (0.5-2 mg/hr ordered) 
___ 17:35 IV BOLUS Rocuronium 65 mg 
  

Imaging notable for:  
CT C-Spine W/O Contrast  [268] 
No acute fracture or malalignment. ET and OG tubes in place. 

CT Head W/O Contrast  [295] 
No acute intracranial process. 

CXR
FINDINGS:  
 2 portable supine chest radiographs performed 90 minutes. dd on 
the first  exam, an endotracheal tube is seen terminating 
approximately 3 cm above the  carina. 
On the second radiograph performed 90 minutes later, there is no 

 change in the position of the tip of the endotracheal tube. 
Nasogastric tube  terminates in the left upper quadrant. Lungs 
are clear. Cardiomediastinal silhouette is normal.
 Bony structures are intact. 

Labs notable for: 
Cr 1.4
lactate 12.3; pH 7.2s
EtOH 157
Cocaine Positive
CK 800s
trop negative
 
 On arrival to the MICU,  patient intubated and paralyzed. 

 Also called Dr. ___ ___ and requested call 
back via answering service, who had seen Mr. ___ in the past 
per ___ record obtained from ___ ___ (sent to ED 
after MRI brain for post-concussive syndrome auto vs ped 
accident ___ when was lethargic with slurred speech, 
+marijuana cocaine in urine) MRI showed minimal leukoaraiosis 
and incidental developmental venous anomaly on the left, EEG in 
___ normal per Dr. ___.  CT head ___ no acute 
intracranial pathology
 
Past Medical History:
EtOH Abuse
Illicit Drug Abuse (cocaine)
post-concussive syndrome s/p auto vs ped accident ___

 
Social History:
___
Family History:
No family history of epilepsy
 
Physical Exam:
============================
 ADMISSION PHYSICAL EXAM
============================
PHYSICAL EXAMINATION
Vitals:  T: 99.0 HR: 90 BP: 88/54 RR: 15 SaO2: 100% intubated 
General: intubated, sedated, NAD. Exam performed with propofol
held for 10 minutes. 
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
on vent
Cardiac: Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic Examination: 
- Mental status: partial EO to voice with noxious. Does not open
eyes enough to regard/track. When eyes are passively opened, he
does not regard/track. Follows no commands. 
-Cranial Nerves: PERRL 1.5mm and minimally reactive. no BTT
bilaterally. UTA VOR due to rigid cervical collar. No facial
activation elicited. 
- SensoriMotor:  Normal bulk and tone. Spontaneously moves BUE 
in
the plane. At one point, while the LUE is restrained and RUE is
unrestrained, he reaches AG with RUE purposefully toward ETT. 
BLE
withdraw in the plane to tickle. 
-DTRs:
  Bi Tri ___ Pat Ach Pec jerk   Crossed Abductors
L  2  2    2    2   2                        
R  2  2    2    2   2                       
Plantar response was flexor bilaterally.
- Coordination: UTA
- Gait: UTA

==========================
DISCHARGE PHYSICAL EXAM
==========================
-GEN: Awake in bed reading breakfast menu. 
-HEENT: NC/AT. Poor dentition. 
-NECK: Supple
-CV: RRR
-PULM: Breathing comfortably on room air. 
-ABD: Soft, NT/ND. Bowel sounds present. 
-EXT: Warm, well-perfused. No clubbing, cyanosis, or edema. 

-MS: Alert and oriented x3. Able to name ___ backwards. Speaks
slowly, mild dysarthria. Able to provide history and follows
complex commands. 

-CN: PERRL 3 to 2mm and brisk. EOMI.  Facial musculature
symmetric. Hearing grossly intact to speech. Palate elevates
symmetrically. Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. Pain in bilateral shoulder
limiting arm raise. No pronator drift bilaterally. No
adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    5   5          5     5           5           5   
R  5    5   5          5     5           5           5   

-Sensory: No deficits to light touch throughout. 

-DTRs: (From prior exam)
  Bi Tri ___ Pat Ach 
L  2      1    2   1   
R  2      1    2   1  

-Coordination: No intention tremor. Slow but no dysmetria on 
FNF.

-Gait: Deferred. 
 
Pertinent Results:
==========================
 ADMISSION LABS
==========================
___ 03:45PM BLOOD WBC-7.5 RBC-5.22 Hgb-14.4 Hct-44.5 MCV-85 
MCH-27.6 MCHC-32.4 RDW-15.7* RDWSD-48.4* Plt ___
___ 10:04PM BLOOD Neuts-61.5 ___ Monos-13.0 
Eos-0.5* Baso-0.3 Im ___ AbsNeut-4.78 AbsLymp-1.91 
AbsMono-1.01* AbsEos-0.04 AbsBaso-0.02
___ 03:45PM BLOOD ___ PTT-24.1* ___
___ 03:45PM BLOOD ___ 03:45PM BLOOD Glucose-106* UreaN-10 Creat-1.4* Na-142 
K-3.6 Cl-99 HCO3-13* AnGap-34*
___ 03:45PM BLOOD ALT-29 AST-37 CK(CPK)-821* AlkPhos-75 
TotBili-0.7
___ 03:45PM BLOOD CK-MB-9 MB Indx-1.1
___ 03:45PM BLOOD cTropnT-<0.01
___ 07:20AM BLOOD CK-MB-6 cTropnT-<0.01
___ 03:45PM BLOOD Albumin-4.7 Calcium-9.8 Phos-4.4 Mg-2.4
___ 03:45PM BLOOD Osmolal-330*
___ 03:45PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 03:57PM BLOOD pO2-146* pCO2-32* pH-7.27* calTCO2-15* 
Base XS--10 Intubat-NOT INTUBA Comment-GREEN TOP
___ 03:57PM BLOOD Glucose-101 Lactate-12.3* Na-140 K-3.4 
Cl-107
___ 03:57PM BLOOD Hgb-14.7 calcHCT-44 O2 Sat-91 COHgb-8* 
MetHgb-0
 
==========================
 KEY INTERVAL LABS
==========================
___ 10:21PM BLOOD Lactate-2.0
___ 05:23AM BLOOD Lactate-0.9
___ 05:23AM BLOOD Type-ART pO2-48* pCO2-43 pH-7.35 
calTCO2-25 Base XS--1
 
==========================
 MICROBIOLOGY
==========================
___ Blood Culture: no growth to date 
___ Urine Culture: negative
___ Blood Culture: no growth to date 
 
==========================
 IMAGING AND KEY STUDIES
==========================
CT C-SPINE WITHOUT CONTRAST: No fracture or malalignment.  ET 
and OG tubes in place.
 
CT HEAD WITHOUT CONTRAST ___: No acute intracranial 
process.
 
CXR ___: Possible small bulla at the left lung apex again 
noted.  No pneumothorax identified.  Doubt CHF.  No focal 
infiltrate or gross effusion.  No displaced rib fracture 
detected. 
 
CXR ___: 2 portable supine chest radiographs performed 90 
minutes. dd on the first exam, an endotracheal tube is seen 
terminating approximately 3 cm above the carina.  On the second 
radiograph performed 90 minutes later, there is no change in the 
position of the tip of the endotracheal tube.  Nasogastric tube 
terminates in the left upper quadrant.  Lungs are clear.  
Cardiomediastinal silhouette is normal.  Bony structures are 
intact.    IMPRESSION:  As above.  ET tube positioned 
appropriately. 

MRI Brain ___
There are no acute intracranial findings. 
Paranasal sinus disease with suggestion of acute right maxillary 
sinusitis. Suggestion of nasal septal perforation. 

 
Brief Hospital Course:
 ___ male ___ post-concussive syndrome s/p auto vs ped 
accident ___ who presents with seizure after head trauma in 
setting of EtOH and cocaine use. He was intubated for airway 
protection, EEG was performed for 24 hours and MRI was performed 
to rule out structural causes. He also had anion gap metabolic 
acidosis, elevated lactate and acute kidney injury which 
resolved with IVF. He will follow-up with neurology as an 
outpatient.
 
=============================
 ACTIVE ISSUES
=============================
#Seizure: occurred secondary to trauma, Non-contrast head CT 
without acute intracranial process. Other considerations include 
cocaine/crack cocaine intoxication, EtOH withdrawal (unclear how 
much he drinks and BAL 157). Intubated for airway protection ___ 
extubated ___ without incident. EEG was performed for 24 hours 
and MRI was performed to rule out structural causes. Both were 
negative. He will follow-up with neurology as an outpatient. He 
was not started on AEDs due to provoked seizure. 

=============================
 RESOLVED ISSUES
=============================
#Anion Gap Metabolic Acidosis: ___ lactic acidosis from seizure, 
hypovolemia, cocaine. Osm Gap 2.4. Resolved with IVF. 
  
#EtOH Abuse: BAL 150 on admission. Received precedex while 
intubated, was monitored for signs of withdrawal with CIWA scale 
on diazepam. 
 
#Cocaine Use: troponin negative. Social work consulted. 

#Acute kidney injury: Cr. 1.4 from unknown baseline resolved to 
1.0. Likely multifactorial from seizure and cocaine use, CK 
trended to peak, resolved with IVF. 
 
#Hematuria: possibly ___ myoglobinuria from urine dipstick from 
cocaine induced myolysis versus true from trauma.  CK was 
trended and stable in 800s, hemoglobin and hematocrit were 
stable as well. 
 
#Carboxyhemoglobinemia: COHb 8, typically smokes 6 cig a day 
declined smoking cessation counseling or nicotine replacement 
while hospitalized.  

=============================
 TRANSITIONAL ISSUES
=============================

Outpatient
- Will follow-up with neurology at ___ with Dr. 
___. No indication to start AEDs at this time. 
- Fax d/c summary to ___ house
- Consider referral to dental clinic as possible
- If he wants belongings can follow-up with ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 20 mg PO DAILY 
2. HydrOXYzine 25 mg PO BID:PRN anxiety 
3. Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Magnesium Oxide 250 mg PO DAILY Headache Duration: 1 Dose 
RX *magnesium oxide 250 mg 1 tablet(s) by mouth DAILY Disp #*30 
Tablet Refills:*2 
2.  FLUoxetine 20 mg PO DAILY  
3.  HydrOXYzine 25 mg PO BID:PRN anxiety  
4.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Provoked seizure
Intoxication

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ ___ ___ after you 
had a seizure caused by hitting your head.  You had to have a 
tube inserted to help you breath.

While you were here you were monitored for seizures and an MRI 
of your brain was performed to ensure there was no other cause 
of your seizure. 

Now that you are leaving the hospital:
- follow-up with neurology as scheduled 
- stop using cocaine, it can increase your risk of brain injury 
or heart attack

It was a pleasure taking care of you

-Your ___ Team
 
Followup Instructions:
___